US07737138B2
3-Methyl-N,N-dimethylphenylenediamine dihydrochloride
To a 250 cm3 round bottom flask was added water (100 cm3) and the temperature was reduced to 5° C. with an ice bath. To this cooled solution was carefully added sulphuric acid (98%, 22.5 g). To this solution was added 3-methyl-N,N-dimethylaniline (10 g, 74 mmol) and then sodium nitrite (5.6 g, 81.4 mmol), and the solution was stirred at room temperature for 1 hour. Iron (Fe) filings (12.8 g, 229 mmol) were added and the mixture stirred for a further 2 hours. The solution was filtered and then neutralized with saturated sodium hydrogen carbonate solution and the organics were extracted into ethyl acetate (3×100 cm3). The extracts were dried over magnesium sulphate, filtered, and concentrated to give a brown oil. The oil was dissolved in diethyl ether (100 cm3) and concentrated hydrochloric acid (50 cm3) was added. The solution was evaporated to dryness to give the title compound (10 g, 60%) as a light tan solid. νmax (KBr)/cm−1: 2849 (CH), 2821 (CH), 2543 (CH), 2444 (CH), 1586 (C═N), 1487 (CH), 1445 (CH), 1415 (CH), 1138 (CH); dH (250 MHz; D2O): 7.59 (1H, s, ArH), 7.50 (2H, s, ArH), 3.24 (6H, s, CH3), 2.39 (3H, s, CH3); δC (62.9 MHz; D2O) 18.9 (CH3), 48.8 (CH3), 122.1 (ArC), 126.2 (ArC), 127.6 (ArC), 133.7 (ArC), 137.4 (ArC), 144.4 (ArC).

reactant | sulphuric acid | 22.5 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-methyl-N,N-dimethylaniline | 74 mmol, 10 g | CC=1C=C(N(C)C)C=CC1 | C9H13N
reactant | sodium nitrite | 81.4 mmol, 5.6 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 50 cm3 | Cl | ClH
solvent | diethyl ether | 100 cm3 | C(C)OCC | C4H10O
catalyst | Iron | [Fe] | Fe
solvent | water | 100 cm3 | O | H2O
product | 3-Methyl-N,N-dimethylphenylenediamine dihydrochloride | 10 g, 60% | Cl.Cl.CC=1C(=C(C=CC1)N(C)C)N | InChI=1S/C9H14N2.2ClH/c1-7-5-4-6-8(9(7)10)11(2)3;;/h4-6H,10H2,1-3H3;2*1H
